US07846960B2
A solution of (4-bromo-2-nitro-phenyl)-acetic acid (5.00 g, 19.2 mmol) in methanol (100 mL) is treated with conc. HCl (1.0 mL). The mixture is stirred at 85° C. for 16 hours and cooled to room temperature. The mixture is neutralized with aqueous Na2CO3 and concentrated. The residue is extracted with ethyl acetate (50 mL×2), and the combined organic layers are dried over sodium sulfate and concentrated to provide (4-bromo-2-nitro-phenyl)-acetic acid methyl ester as a brown solid (5.27 g, 100%).

reactant | (4-bromo-2-nitro-phenyl)-acetic acid | 19.2 mmol, 5.00 g | BrC1=CC(=C(C=C1)CC(=O)O)[N+](=O)[O-] | C8H6BrNO4
reactant | HCl | 1.0 mL | Cl | ClH
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | (4-bromo-2-nitro-phenyl)-acetic acid methyl ester | 5.27 g, 100% | COC(CC1=C(C=C(C=C1)Br)[N+](=O)[O-])=O | C9H8BrNO4
